US06051712
290 mg (6.05 mmol) of sodium hydride (50% dispersion in refined oil) were added to a solution of 2.08 g (3.78 mmol) of tert-butyl (3RS,4RS)-3-hydroxy-4-(4-trityloxymethyl-phenyl)-piperidine-1-carboxylate and 1.0 g (4.54 mmol) of 2-bromomethyinaphthalene in 30 ml of dimethylformamide and the reaction mixture was stirred at room temperature for 2 hours. For the working-up, the reaction mixture was evaporated in an oil pump vacuum, the residue was partitioned between 100 ml of saturated ammonium chloride solution and 100 ml of ethyl acetate and thereafter the separated aqueous phase was extracted twice with 50 ml of ethyl acetate each time. The combined ethyl acetate extracts were dried over sodium sulphate and evaporated under reduced pressure. For purification, the crude product was chromatographed on silica gel using a 4:1 mixture of methylene chloride and hexane as the eluent. There were obtained 2.27 g (87% of theory) of tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-(4-trityloxymethyl-phenyl)-piperidine-1-carboxylate as a colourless solid; MS: 707 (M+NH4)+.

reactant | sodium hydride | 6.05 mmol, 290 mg | [H-].[Na+]
reactant | tert-butyl (3RS,4RS)-3-hydroxy-4-(4-trityloxymethyl-phenyl)-piperidine-1-carboxylate | 3.78 mmol, 2.08 g | OC1CN(CCC1C1=CC=C(C=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C36H39NO4
reactant | 2-bromomethyinaphthalene | 4.54 mmol, 1.0 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-(4-trityloxymethyl-phenyl)-piperidine-1-carboxylate | 2.27 g, 87% | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C47H47NO4
